US07981886B2
6-{[trans-4-(benzothiazole-2-carbonyl)-cyclohexylamino]-methyl}-4H-benzo[1,4]oxazin-3-one
The title compound was prepared according to the same protocol as for example 1, step 1.c, using however (4-amino-cyclohexyl)-benzothiazol-2-yl-methanone (0.3 mmol) and 3-oxo-3,4-dihydro-2H-benzo[1,4]oxazine-6-carbaldehyde (0.3 mmol). 40 mg (28%) of the title compound (a yellowish solid) were obtained.

reactant | (4-amino-cyclohexyl)-benzothiazol-2-yl-methanone | 0.3 mmol | NC1CCC(CC1)C(=O)C=1SC2=C(N1)C=CC=C2 | C14H16N2OS
reactant | 3-oxo-3,4-dihydro-2H-benzo[1,4]oxazine-6-carbaldehyde | 0.3 mmol | O=C1COC2=C(N1)C=C(C=C2)C=O | C9H7NO3
product | 6-{[trans-4-(benzothiazole-2-carbonyl)-cyclohexylamino]-methyl}-4H-benzo[1,4]oxazin-3-one | 40 mg, 28% | S1C(=NC2=C1C=CC=C2)C(=O)[C@@H]2CC[C@H](CC2)NCC=2C=CC1=C(NC(CO1)=O)C2 | C23H23N3O3S
